US04607030
(d) 5-Hydroxy-6-dimethylaminomethyleneaminosulfonylindane
This compound is prepared analogously to Example 1d from 5-methoxy-6-dimethylaminomethyleneaminosulfonylindane and boron tribromide.

reactant | 5-methoxy-6-dimethylaminomethyleneaminosulfonylindane | COC=1C=C2CCCC2=CC1S(=O)(=O)N=CN(C)C | C13H18N2O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 5-Hydroxy-6-dimethylaminomethyleneaminosulfonylindane | OC=1C=C2CCCC2=CC1S(=O)(=O)N=CN(C)C | C12H16N2O3S
